US08937183B2
Synthesis of 6-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)benzo-[d]thiazole-2-carbonitrile (PBI 4472)
A mixture of 6-hydroxybenzothiazole (0.5 g, 2.84 mmol), potassium carbonate (0.78 g, 5.68 mmol) and potassium iodide (0.94 g, 5.68 mmol) in acetonitrile was heated to reflux for 1 hour. 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.93 g, 3.12 mmol) was added, and the reaction mixture was refluxed overnight. After cooling down, the suspension was extracted with ethyl acetate/water and the residue was purified with flash chromatography to give the product as a white solid (0.8 g, 72%). 1H NMR (300 MHz, CD2Cl2, δ): 8.11 (d, J=9.0 Hz, 1H), 7.81 (d, J=9.0 Hz, 2H), 7.47 (m, 3H), 7.34 (dd, J=9.0 Hz, 1H), 5.22 (s, 2H), 1.35 (s, 9H); MS (ESI) m/z 393.2.

reactant | 6-hydroxybenzothiazole | 2.84 mmol, 0.5 g | OC1=CC2=C(N=CS2)C=C1 | C7H5NOS
reactant | potassium carbonate | 5.68 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5.68 mmol, 0.94 g | [I-].[K+]
reactant | 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.12 mmol, 0.93 g | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | acetonitrile | C(C)#N | C2H3N
product | 6-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)oxy)benzo-[d]thiazole-2-carbonitrile | 0.8 g, 72% | CC1(OB(OC1(C)C)C1=CC=C(COC2=CC3=C(N=C(S3)C#N)C=C2)C=C1)C | C21H21BN2O3S
